US07786165B2
ethyl 5-isobutoxy-1-(2-methylphenyl)-1H-pyrazole-3-carboxylate
To a mixture of ethyl 5-hydroxy-1-(2-methylphenyl)-1H-pyrazole-3-carboxylate (1.0 g, 4.06 mmol), potassium carbonate (0.84 g, 6.09 mmol) and N,N-dimethylformamide (10 mL) was added isobutyl bromide (0.49 mL, 4.47 mmol) under stirring at room temperature, and the mixture was stirred at the same temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and 5% aqueous potassium hydrogensulfate solution, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-4/1) to give the title compound (1.07 g, yield 87%) as pale-yellow crystals.

reactant | ethyl 5-hydroxy-1-(2-methylphenyl)-1H-pyrazole-3-carboxylate | 4.06 mmol, 1.0 g | OC1=CC(=NN1C1=C(C=CC=C1)C)C(=O)OCC | C13H14N2O3
reactant | potassium carbonate | 6.09 mmol, 0.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | isobutyl bromide | 4.47 mmol, 0.49 mL | C(C(C)C)Br | C4H9Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-isobutoxy-1-(2-methylphenyl)-1H-pyrazole-3-carboxylate | 1.07 g, yield 87% | C(C(C)C)OC1=CC(=NN1C1=C(C=CC=C1)C)C(=O)OCC | C17H22N2O3
